### PR TITLE
Confluence

### PR DESCRIPTION
**Pull request by volodeyka**

### CODE REVIEW

File: transitionsystem.v [hunk 1]
```diff
@@ -285,11 +295,168 @@ End Nread_Consist.
...
+Notation dom1   := (dom   es1).
+Notation lprf1  := (lprf   es1).
+Notation fresh1 := (fresh_seq dom1).
+Notation dom2   := (dom   es2).
+Notation lprf2  := (lprf   es2).
+Notation fresh2 := (fresh_seq dom2).
+
+Definition is_morph f := 
+  ((map f dom1 =i dom2) *
+   (forall n, f (iter n fresh fresh1) = iter n fresh fresh2) *
```
Comment (eupp) [inline transitionsystem.v:319]: Why do you need this condition?

File: transitionsystem.v [hunk 2]
```diff
@@ -285,11 +295,168 @@ End Nread_Consist.
...
+   (lprf2 \o f =1 (ext f) \o lprf1))%type.
```
Comment (eupp) [inline transitionsystem.v:320]: I think it would be easier to understand this condition in terms of individual components, i.e. 
* `lab1 =1 f \o lab2`
* `f \o fpred1  =1 fpred2 \o f`
* `f \o frf1  =1 frf2 \o f`.

File: transitionsystem.v [hunk 3]
```diff
@@ -285,11 +295,168 @@ End Nread_Consist.
...
+
+Definition is_iso f := (is_morph f * bijective f)%type.
```
Comment (eupp) [inline transitionsystem.v:322]: Why are you constantly using notation `(A * B)%type` instead of just `A /\ B` ?)

File: transitionsystem.v [hunk 4]
```diff
@@ -285,11 +295,168 @@ End Nread_Consist.
...
+
+Lemma swap_dom es d e: e <= d -> d \in dom es -> 
+  swap id (fresh_seq (dom es)) (fresh_seq (fresh_seq (dom es) :: dom es)) e = e.
+Proof.
+  move/le_lt_trans=> L /(fresh_seq_lt (dom_sorted _)) /L /[dup]. 
+  move/lt_trans/(_ (fresh_lt _))/lt_eqF/negbT=> ? /lt_eqF/negbT ?.
+  by rewrite -swap_not_eq.
+Qed.
+
+Lemma add_add (es : exec_event_struct)
```
Comment (eupp) [inline transitionsystem.v:393]: It is really hard to grasp the meaning of this lemma (and the previous one too). 
What are you trying to say here?
